US09062055B2
Step 3. 1-[1-(3-Fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethanone
To a mixture of 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxamide (0.35 g, 1.2 mmol) in tetrahydrofuran (10 mL) was added 3.0 M methylmagnesium bromide in ether (3.1 mL, 9.4 mmol). The reaction was stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl solution and then extracted with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4 and concentrated to give the desired product (0.24 g, 81%). The crude product was used directly in next step. LCMS calculated for C15H12FN2O(M+H)+: m/z=255.1. Found: 255.1.

reactant | 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 1.2 mmol, 0.35 g | FC=1C=C(C=CC1)N1C(=CC=2C1=NC=CC2)C(=O)N(C)OC | C16H14FN3O2
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | ether | 9.4 mmol, 3.1 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[1-(3-Fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethanone | 0.24 g, 81% | FC=1C=C(C=CC1)N1C(=CC=2C1=NC=CC2)C(C)=O | C15H11FN2O
